US07868014B2
(S)-(2,4-Dichlorobenzyl)-[1-(5-fluoro-4-methylpyrimidin-2-yl)-pyrrolidin-3-yl]amine
Dissolve (S)-[1-(4-chloro-5-fluoropyrimidin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine (318 mg, 0.84 mmol) in dry tetrahydrofuran (7.5 mL) and add trimethylaluminium (510 μL, 1.01 mmol, 2 M in hexanes) and tetrakis(triphenylphosphine)palladium(0) (68 mg, 0.06 mmol). Stir at 70° C. overnight. Quench by addition of water and extract with chloroform. Combine the organic layers and wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter and chromatograph on silica gel. Dissolve the residue in methanol (2 mL) and deposit onto SCX cartridge, eluting with methanol, then 2 M ammonia in methanol. Concentrate the ammonia washing to give the title compound (180 mg, 60%). 1H NMR (400 MHz, MeOH-d4) δ 7.88 (1H, d, J=6.4 Hz), 7.43-7.54 (2H, m), 7.27-7.37 (1H, m), 3.84-3.96 (4H, m), 3.67-3.78 (1H, m), 3.55-3.64 (1H, m), 3.43-3.53 (1H, m), 2.41 (3H, s), 2.14-2.26 (1H, m), 1.89-2.00 (1H, m); MS (ES): m/z=355 [M+].

reactant | (S)-[1-(4-chloro-5-fluoropyrimidin-2-yl)-pyrrolidin-3-yl]-(2,4-dichlorobenzyl)-amine | 0.84 mmol, 318 mg | ClC1=NC(=NC=C1F)N1C[C@H](CC1)NCC1=C(C=C(C=C1)Cl)Cl | C15H14Cl3FN4
reactant | trimethylaluminium | 1.01 mmol, 2 M, 510 μL | C[Al](C)C
solvent | tetrahydrofuran | 7.5 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.06 mmol, 68 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-(2,4-Dichlorobenzyl)-[1-(5-fluoro-4-methylpyrimidin-2-yl)-pyrrolidin-3-yl]amine | 180 mg, 60% | ClC1=C(CN[C@@H]2CN(CC2)C2=NC=C(C(=N2)C)F)C=CC(=C1)Cl | C16H17Cl2FN4
